US06051712
In an analogous manner to that described in Example 1 (g), by alkylating (3RS,4RS)-1-benzyl-4-(4-fluoro-phenyl)-piperidin-3-ol with 2-chloromethyl-4-(β-trimethylsilylethoxymethoxy)-naphthalene there was obtained (3RS,4RS)-1-benzyl-4-(4-fluoro-phenyl)-3-[4-(2-trimethylsilyl-ethoxymethoxy)-naphthalen-2-ylmethoxy]-piperidine as a light yellow oil; MS: 572 (M+H)+.

reactant | (3RS,4RS)-1-benzyl-4-(4-fluoro-phenyl)-piperidin-3-ol | C(C1=CC=CC=C1)N1CC(C(CC1)C1=CC=C(C=C1)F)O | C18H20FNO
reactant | 2-chloromethyl-4-(β-trimethylsilylethoxymethoxy)-naphthalene | ClCC1=CC2=CC=CC=C2C(=C1)OCOCC[Si](C)(C)C | C17H23ClO2Si
product | (3RS,4RS)-1-benzyl-4-(4-fluoro-phenyl)-3-[4-(2-trimethylsilyl-ethoxymethoxy)-naphthalen-2-ylmethoxy]-piperidine | C(C1=CC=CC=C1)N1CC(C(CC1)C1=CC=C(C=C1)F)OCC1=CC2=CC=CC=C2C(=C1)OCOCC[Si](C)(C)C | C35H42FNO3Si
